US04011218
To 3-(p-aminophenyl)-5-(4-pyridyl)-1,2,4-triazole (1 g.) is added acetic anhydride (20 ml.) and the resulting suspension is heated 18 hours on a steam bath. The excess acetic anhydride is removed under reduced pressure and water (25 ml.) is added to the residue. After stirring 0.5 hour, the solid is filtered and recrystallized to yield 3-(p-acetylaminophenyl)-5-(4-pyridyl)-1,2,4-triazole.

reactant | 3-(p-aminophenyl)-5-(4-pyridyl)-1,2,4-triazole | 1 g | NC1=CC=C(C=C1)C1=NNC(=N1)C1=CC=NC=C1 | C13H11N5
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(p-acetylaminophenyl)-5-(4-pyridyl)-1,2,4-triazole | C(C)(=O)NC1=CC=C(C=C1)C1=NNC(=N1)C1=CC=NC=C1 | C15H13N5O
